US07816524B2
Ethyl 2-(benzothiazol-2-yl)acetate was prepared by the method of Abbotto, Bradamante et. al. ( J. Org. Chem. 2002, 16, 5753). A neat mixture of 2-aminothiophenol (6.94 g, 50 mmol) and ethyl cyanoacetate (5.65 g, 50 mmol) was heated at 120° C. for 3 hours at which time TLC analysis indicated that the reaction was complete as judged by the disappearance of starting material. The dark orange mixture was diluted with ethyl acetate/hexanes and purified by flash chromatography using 10-20% ethyl acetate/hexanes (Rf0.35, 10% ethyl acetate/hexanes) as an eluant. After concentration by rotary evaporator, ethyl 2-(benzothiazol-2-yl)acetate could be obtained as a yellow oil in 72% yield (7.97 g). LCMS: 222.3 (M+H)+.

reactant | 2-aminothiophenol | 50 mmol, 6.94 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | ethyl cyanoacetate | 50 mmol, 5.65 g | C(#N)CC(=O)OCC | C5H7NO2
product | Ethyl 2-(benzothiazol-2-yl)acetate | 72% yield | S1C(=NC2=C1C=CC=C2)CC(=O)OCC | C11H11NO2S
